US04103030
To a solution of 2-methylaminoethanol (0.29 g) in ethanol (5 ml) was added a solution of 2,2-di(m-chlorophenyl)cyclopropylmethyl chloride (0.40 g) in ethanol (10 ml) at room temperature, and stirring was carried out under reflux for 10 hours. The reaction mixture was evaporated and poured into a 10 % aqueous solution of sodium hydroxide. The chloroform extract was dried and chromatographed to afford N-methyl-N-(2-hydroxyethyl)-2,2-di(m-chlorophenyl)-cyclopropylmethylamine as an oily substance. M.P. 152° - 154° C. (hydrochoride).

reactant | 2-methylaminoethanol | 0.29 g | CNCCO | C3H9NO
reactant | 2,2-di(m-chlorophenyl)cyclopropylmethyl chloride | 0.40 g | ClC=1C=C(C=CC1)C1(C(C1)CCl)C1=CC(=CC=C1)Cl | C16H13Cl3
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-methyl-N-(2-hydroxyethyl)-2,2-di(m-chlorophenyl)-cyclopropylmethylamine | CN(CCO)CC1C(C1)(C1=CC(=CC=C1)Cl)C1=CC(=CC=C1)Cl | C19H21Cl2NO
